US09062041B2
To a solution of 1.94 g of tert-butyl 3-[(tosyloxy)methyl]azetidin-1-carboxylate in 15.5 ml acetone were added 837 mg of lithium iodide and the reaction mixture was stirred for 16 hours at 35° C. After cooling, it was diluted with 200 ml ethyl acetate and the organic phase washed twice with 30 ml portions of water and once with 20 ml saturated sodium chloride solution. After drying over sodium sulphate and filtration, this was concentrated in vacuo. In this manner, 1.6 g of tert-butyl-3-(iodomethyl)azetidin-1-carboxylate were obtained, which was further reacted without purification.

reactant | tert-butyl 3-[(tosyloxy)methyl]azetidin-1-carboxylate | 1.94 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1CN(C1)C(=O)OC(C)(C)C | C16H23NO5S
reactant | lithium iodide | 837 mg | [I-].[Li+]
solvent | acetone | 15.5 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl-3-(iodomethyl)azetidin-1-carboxylate | 1.6 g | C(C)(C)(C)OC(=O)N1CC(C1)CI | C9H16INO2
